US04918094
N-[4-[1-(2-Carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoyl]-2-methylbenzenesulphonamide
A solution of 4-[1-(2-carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoic acid (77 mg), 4-(dimethylamino)pyridine (20 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (37 mg), and ortho-toluenesulphonamide (28 mg) in dichloromethane (2.0 ml) was stirred under a nitrogen atmosphere for 48 hours. The mixture was diluted with dichloromethane; washed with 10% v/v hydrochloric acid, water, and brine; and evaporated. The resulting white solid was crystallized from ethyl acetate/hexane to give the title compound (37 mg; 37%) as a white solid; mp 140°-145° C. (d).

reactant | 4-[1-(2-carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoic acid | 77 mg | C(N)(=O)CCN1C=C(C2=CC(=CC=C12)C(NCC1CCCC1)=O)CC1=C(C=C(C(=O)O)C=C1)OC | C27H31N3O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 37 mg | Cl.CN(CCCN=C=NCC)C
reactant | ortho-toluenesulphonamide | 28 mg | C=1(C(=CC=CC1)S(=O)(=O)N)C | C7H9NO2S
catalyst | 4-(dimethylamino)pyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | N-[4-[1-(2-Carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoyl]-2-methylbenzenesulphonamide | 37 mg, 37% | C(N)(=O)CCN1C=C(C2=CC(=CC=C12)C(NCC1CCCC1)=O)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C34H38N4O6S
